US07709645B2
To a scintillation vial was combined 40 mg (0.06 mmol) of 3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(2,2,2-trifluoro-acetylamino)-benzamide, 165 mg (0.092 mmol) of 2-bromo-N-isopropyl-acetamide, 17 mg (0.12 mmol) of potassium carbonate, and 0.5 mL N,N-dimethylformamide. The vial was heated in a heating block at 60° C. for 19 hours. 5.5 mg (0.03 mmol) 2-bromo-N-isopropyl-acetamide and 8.5 mg (0.06 mmol) potassium carbonate were added. Additionally, 9.0 mg (0.06 mmol) of sodium iodide was added and the reaction was heated to 60° C. for another 72 hours. The reaction was allowed to cool to room temperature and salts were filtered off. The crude filtrate was diluted with 0.5 mL methanol and 150 μL of a 50% w/v potassium hydroxide aqueous solution was added. The reaction was stirred 1 hour at room temperature. The solution was neutralized by adding acetic acid dropwise and then the reaction was concentrated to dryness. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate (containing 10% methanol) and hexanes. The clean fractions were concentrated and then lyophilized overnight to afford 13.3 mg (0.003 mmol, 43% yield) of 3-fluoro-2-[(isopropylcarbamoyl-methyl)-amino]-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide as a pale yellow powder. 1H NMR (500 MHz, CD3OD) δ 8.42 (s, br., 1H), 8.18 (d, 1H), 7.65 (s, 1H), 7.58 (dd, 1H), 7.45 (dd, 1H), 7.31 (t, 1H), 7.25 (d, 1H), 7.13 (d, 1H), 7.06 (t, 1H), 4.02 (m, 1H), 3.85 (s, 3H), 3.84 (s, 2H), 3.15 (s, br., 3H), 3.04 (s, br., 3H), 1.16 (d, 6H); MS: m/z 504.1 (M+H+).

reactant | 3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-2-(2,2,2-trifluoro-acetylamino)-benzamide | 0.06 mmol, 40 mg | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)NC(C(F)(F)F)=O | C32H26F4N4O5S
reactant | 2-bromo-N-isopropyl-acetamide | 0.092 mmol, 165 mg | BrCC(=O)NC(C)C | C5H10BrNO
reactant | potassium carbonate | 0.12 mmol, 17 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-isopropyl-acetamide | 0.03 mmol, 5.5 mg | BrCC(=O)NC(C)C | C5H10BrNO
reactant | potassium carbonate | 0.06 mmol, 8.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.06 mmol, 9.0 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 3-fluoro-2-[(isopropylcarbamoyl-methyl)-amino]-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.003 mmol, 13.3 mg, 43% yield | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)NCC(NC(C)C)=O | C28H30FN5O3
